US04176183
A. 2-Hydroxy-3-cyano-1,8-naphthyridine
A mixture of 2-aminonicotinaldehyde (2.44 g., 0.02 m), ethyl α-cyanoacetate (4.52 g., 0.04 m.), absolute ethanol (50 ml.) and piperidine (0.5 ml) is stirred under reflux. After 1 hour, the solution is cooled to 0°-4° C. The yellow solid is filtered and dried to yield 2.5 g. (73%) of 2-hydroxy-3-cyano-1,8-naphthyridines, m.p. 300° C.

reactant | 2-aminonicotinaldehyde | 2.44 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | ethyl α-cyanoacetate | 4.52 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Hydroxy-3-cyano-1,8-naphthyridine | OC1=NC2=NC=CC=C2C=C1C#N | C9H5N3O
